US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and isobutyl chloroformate, there is obtained ethyl N-isobutoxycarbonyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a syrup, mass spectrum m/e: M+ 366 (11), 337 (13), 293 (20), 263 (88), 194 (100);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
product | ethyl N-isobutoxycarbonyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C(C(C)C)OC(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C22H26N2O3
